US07820683B2
To a stirred suspension of sodium hydride (60% in mineral oil, 1.68 g, 42 mmol) in DMA (25 ml) was slowly added N-(2-hydroxyethyl)acetamide (1.80 g, 17.5 mmol). When the effervescence had subsided, 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine (2.60 g, 7.0 mmol) was added and the mixture was heated at 120° C. for 18 hours. The reaction was quenched by addition of saturated aqueous NH4Cl (5 ml) and evaporated (high vacuum). The residue was stirred with water (100 ml) giving a gelatinous precipitate, which was filtered off and washed with water. The product was purified by chromatography (silica, dry loaded, 5 to 10% methanol/DCM) and crystallized by trituration with ether to give 4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-ol (928 mg, 32%); NMR spectrum (373 K) 5.72 (s, 2H), 6.77 (m, 3H), 7.03 (d, 1H), 7.23 (dd, 1H), 7.44 (t, 1H), 7.50 (d, 1H), 7.59 (d, 1H), 7.70 (t, 1H), 8.07 (s, 1H), 8.13 (s, 1H), 8.27 (s, 1H), 8.52 (d, 1H), 11.87 (br s, 1H); Mass spectrum MH+ 369.

reactant | sodium hydride | 42 mmol, 1.68 g | [H-].[Na+]
reactant | N-(2-hydroxyethyl)acetamide | 17.5 mmol, 1.80 g | OCCNC(C)=O | C4H9NO2
reactant | 5-fluoro-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 7.0 mmol, 2.60 g | FC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C21H15FN6
solvent | DMA | 25 ml | CC(=O)N(C)C | C4H9NO
product | 4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-ol | 928 mg, 32% | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC=2C=CC=C(C12)O | C21H16N6O
